US03943148
1,2,5,6,11,11b-Hexahydro-11b-methyl-3H-indolizino[8,7-b]indol-3-one
Tryptamine (112.15 g.), levulinic acid (97.6 g., 85.6 ml.) and butyl cellosolve (1 liter) are refluxed under nitrogen for 16 hours and the solvent is removed. The residue is successively washed with water, dilute aqueous sodium hydroxide, water, dilute aqueous hydrochloric acid, water and dried. Trituration of the crude product, decomposition at 252°-262°C., with methanol, and then with benzene, and drying provides 120.4 g. of the title compound, decomposition at 259°-263°C.; λmaxKBr 3.09, 6.01, 6.17, 13.38 μ.

reactant | Tryptamine | 112.15 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | levulinic acid | 85.6 ml, 97.6 g | C(CCC(=O)C)(=O)O | C5H8O3
solvent | butyl cellosolve | 1 liter | CCCCOCCO | C6H14O2
product | 1,2,5,6,11,11b-Hexahydro-11b-methyl-3H-indolizino[8,7-b]indol-3-one | CC12CCC(N1CCC1=C2NC2=CC=CC=C12)=O | C15H16N2O
